US08530413B2
3-[4-(6-Bromo-4,4-dimethyl-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethoxy)phenyl]hex-4-ynoic acid
91 mg of methyl 3-[4-(6-bromo-4,4-dimethyl-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethoxy)-phenyl]hex-4-ynoate were dissolved in 1.4 ml of tetrahydrofuran, and 1N LiOH solution was added. The experiment was stirred at room temperature for 2 hours and left to stand at room temperature overnight. Subsequently, 2N H2SO4 was used to adjust the pH to 1 and the mixture was extracted with 80 ml of ethyl acetate. The organic phase was removed and dried over MgSO4, filtered and then concentrated under reduced pressure. The residue was purified by means of RP-HPLC. This gave 27.0 mg of 3-[4-(6-bromo-4,4-dimethyl-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethoxy)phenyl]hex-4-ynoic acid,

reactant | methyl 3-[4-(6-bromo-4,4-dimethyl-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethoxy)-phenyl]hex-4-ynoate | 91 mg | BrC=1C=C2C(CC(N(C2=CC1)COC1=CC=C(C=C1)C(CC(=O)OC)C#CC)=O)(C)C | C25H26BrNO4
reactant | LiOH | 1N | [Li+].[OH-]
reactant | H2SO4 | 2N | OS(=O)(=O)O | H2O4S
solvent | tetrahydrofuran | 1.4 ml | O1CCCC1 | C4H8O
product | 3-[4-(6-Bromo-4,4-dimethyl-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethoxy)phenyl]hex-4-ynoic acid | BrC=1C=C2C(CC(N(C2=CC1)COC1=CC=C(C=C1)C(CC(=O)O)C#CC)=O)(C)C | C24H24BrNO4
